US08383619B2
A mixture of methyl 2,4-dihydroxy-5-isopropylbenzoate (420 mg, 2.0 mmol) and anhydrous potassium carbonate (662 mg, 4.8 mmol) in acetonitrile (10 ml) was treated with allyl bromide (0.35 ml, 4.0 mmol) and the mixture was stirred at room temperature for 24 hours. The solvent was removed in vacuo and the residue acidified by the addition of 2M hydrochloric acid (10 ml). The organic material was extracted with dichloromethane (2×20 ml), the combined organic extracts were evaporated in vacuo and the residue subjected to column chromatography on silica. Elution with 2-10% ethyl acetate in petroleum ether afforded methyl 4-allyloxy-2-hydroxy-5-isopropylbenzoate (330 mg, 60%) as a colourless solid. 1H NMR (DMSO-d6) 10.68 (1H, s), 7.55 (1H, s), 6.54 (1H, s), 6.06 (1H, m), 5.42 (1H, dm), 5.29 (1H, dm), 4.65 (2H, m), 3.88 (3H, s), 3.16 (1H, m), 1.16 (6H, d).

reactant | methyl 2,4-dihydroxy-5-isopropylbenzoate | 2.0 mmol, 420 mg | OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C11H14O4
reactant | potassium carbonate | 4.8 mmol, 662 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 4.0 mmol, 0.35 ml | C(C=C)Br | C3H5Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 4-allyloxy-2-hydroxy-5-isopropylbenzoate | 330 mg, 60% | C(C=C)OC1=CC(=C(C(=O)OC)C=C1C(C)C)O | C14H18O4
